US08357635B2
To a stirred solution of 2,4,5-trichloro-thiophene-3-carbaldehyde (10.3 g; 48 mmol) and lithium bromide (0.10 g; 1.2 mmol) in acetonitrile (100 mL) at 15° C. under nitrogen was added acetylmethylene-triphenylphosphorane (15.6 g; 49 mmol). The reaction mixture was stirred for 3 hours at ambient temperature then poured in water (200 ml) and extracted with dichloromethane (3×70 ml). Combined organic layers were dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by chromatography over silica gel (eluant: cyclohexane/ethyl acetate 90:10) to afford 11.2 g (91% of theory) of (E)-4-(2,4,5-trichloro-thiophen-3-yl)-but-3-en-2-one as yellow solid.

reactant | 2,4,5-trichloro-thiophene-3-carbaldehyde | 48 mmol, 10.3 g | ClC=1SC(=C(C1C=O)Cl)Cl | C5HCl3OS
reactant | acetylmethylene-triphenylphosphorane | 49 mmol, 15.6 g | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
catalyst | lithium bromide | 1.2 mmol, 0.10 g | [Br-].[Li+]
product | (E)-4-(2,4,5-trichloro-thiophen-3-yl)-but-3-en-2-one | 11.2 g, 91% | ClC=1SC(=C(C1/C=C/C(C)=O)Cl)Cl | C8H5Cl3OS
